US04497650
2,10-Dihydro-10-(ethoxycarbonyl)-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
The title compound was prepared from 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one (2.35 g, 0.0102 molel), ethyl chloroformate (1.1 ml, 0.0102 mole) and triethylamine (1 ml, 0.0102 mole) by reaction in 150 ml of acetone solvent according to the general method of Example 17. The yellowish, crude product was chromatographed on a Waters LC 500 instrument to give 1.62 g of a clear oil which crystallized to a solid, mp 84°-86° C. The confirmatory elemental analysis for the product is shown in Table III.

reactant | 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | 2.35 g | CC1(NC2=NC3=C(N2C(N1C)=O)C=CC=C3)C | C12H14N4O
reactant | ethyl chloroformate | 0.0102 mole, 1.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.0102 mole, 1 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 2,10-Dihydro-10-(ethoxycarbonyl)-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | C(C)OC(=O)N1C=2N(C3=C1C=CC=C3)C(N(C(N2)(C)C)C)=O | C15H18N4O3
